US04555518
22.5 ml of 100% strength nitric acid are added dropwise to 20 g of the above compound in 200 ml of methylene chloride at 20° C. in the course of 30 min., and stirring is continued for 15 h at room temperature. Analogously to Examples 11c, N-(4-difluoroethoxy-5-fluoro-2-nitrophenyl)-acetamide of m.p. 72°-74° C. (89% yield, from cyclohexane), is obtained. Stirring this compound for several hours with 1M hydrogen chloride in methanol at 60° C. yields 4-difluoromethoxy-5-fluoro-2-nitroaniline of m.p. 95°-97,5° C. (95% yield), and further reaction analogously to Example 11e gives 4-difluoromethoxy-5-fluoro-1,2-phenylenediamine dihydrochloride (85% yield, decomposition at 210° C.)

reactant | hydrogen chloride | 1M | Cl | ClH
reactant | 4-difluoromethoxy-5-fluoro-2-nitroaniline | FC(OC1=CC(=C(N)C=C1F)[N+](=O)[O-])F | C7H5F3N2O3
solvent | methanol | CO | CH4O
product | 4-difluoromethoxy-5-fluoro-1,2-phenylenediamine dihydrochloride | 85% yield | Cl.Cl.FC(OC1=CC(=C(C=C1F)N)N)F | InChI=1S/C7H7F3N2O.2ClH/c8-3-1-4(11)5(12)2-6(3)13-7(9)10;;/h1-2,7H,11-12H2;2*1H
